US06964966B2
A mixture of 20% Pd(OH)2 on carbon (0.8 g) and 4-amino-1-benzyl-3,3-diethylpiperidine (8.0 g, 32.52 mmol) in methanol (100 ml) was stirred in hydrogen atmosphere (1 atm.) at 30° C. for 6 hr. The catalyst was filtered off, washed with methanol and filtrate was concentrated to dryness to afford 4-amino-3,3-diethylpiperidine. Yield 4.8 g (94.60%), C9H20N2, m/z 157 (M+1), PMR (CDCl3): 0.9 (s, 6H), 1.5 (m, 2H), 1.58 (bs, 2H, D2O exchangeable), 2.26-2.86 (m, 4H), 3.06 (m, 1H), 3.52 (bs, 1H, D2O exchangeable).

reactant | 4-amino-1-benzyl-3,3-diethylpiperidine | 32.52 mmol, 8.0 g | NC1C(CN(CC1)CC1=CC=CC=C1)(CC)CC | C16H26N2
solvent | methanol | 100 ml | CO | CH4O
solvent | hydrogen | [H][H] | H2
catalyst | Pd(OH)2 on carbon | 0.8 g | [OH-].[OH-].[Pd+2]
product | 4-amino-3,3-diethylpiperidine | NC1C(CNCC1)(CC)CC | C9H20N2
